US08049016B2
Synthesis of 2-(1-((2,2-difluorocyclopropyl)methyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
To a suspension of 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide (0.15 g, 0.47 mmol) and potassium carbonate (0.10 g, 1.47 mmol) in N,N-dimethylformamide (2 mL) was added (2,2-difluorocyclopropyl)-methyl methanesulfonate (0.13 g, 0.70 mmol). The reaction mixture was kept stirring at ambient temperature for 20 hours, diluted with ethyl acetate (100 mL) and washed with water and brine. The organic solution was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was purified by column chromatography to afford the title compound in 41% yield (0.08 g): mp 160-161° C.; 1H NMR (300 MHz, CDCl3) δ 8.53-8.41 (m, 2H), 8.24 (s, 1H), 7.69-7.62 (m, 1H), 7.27-7.16 (m, 2H), 4.54 (d, J=5.8 Hz, 2H), 4.00-3.81 (m, 2H), 2.58 (s, 3H), 2.08-1.91 (m, 1H), 1.56-1.41 (m, 1H), 1.40-1.10 (m, 1H); 13C NMR (75 MHz, CDCl3) δ 161.8, 153.3, 150.9, 149.8, 149.1, 148.7, 135.8, 133.9, 131.1, 123.7, 121.8, 112.7, 43.2, 41.5, 20.8, 17.2, 15.4; MS (ES+) m/z 407.1 (M+1).

reactant | 4-methyl-2-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 0.47 mmol, 0.15 g | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C=NNC1=O | C13H12N6O2S
reactant | potassium carbonate | 1.47 mmol, 0.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2,2-difluorocyclopropyl)-methyl methanesulfonate | 0.70 mmol, 0.13 g | CS(=O)(=O)OCC1C(C1)(F)F | C5H8F2O3S
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(1-((2,2-difluorocyclopropyl)methyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 41% yield | FC1(C(C1)CN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)F | C17H16F2N6O2S
